US07345178B2
Mono-methyl 5-nitro-isophthlate (1.25 g, 5.58 mmol) was suspended in 25 mL of CH2Cl2 and oxalyl chloride (0.49 mL, 5.58 mmol) was added. After 3 drops of DMF was added, the reaction mixture was stirred at room temperature until all gas evolution had ceased and all the solids had dissolved. This freshly prepared solution of the acid chloride was then added dropwise to a solution of 4-aminopyridin-3-yl diisopropylcarbamodithioate (1.5 g, 5.58 mmol) and triethylamine (0.77 mL, 5.58 mmol) in 50 mL of CH2Cl2 at 0° C. The resulting reaction mixture was warmed to room temperature and stirred for 1 hour. It was then quenched with 25 mL of brine and the two layers were separated. The organic layer was dried (Na2SO4) and concentrated. The resulting residue was suspended in 25 mL of 2 N HCl and stirred under reflux for 30 min. It was then cooled to room temperature and the solids were collected by filtration and dried to afford 1.0 g of methyl 3-nitro-5-(thiazolo[5,4-c]pyridin-2-yl)benzoate. This material was then mixed with 20 mL of methanol and 3 mL of water along with 1 g of sodium hydrosulfide hydrate and stirred under reflux for 2 hours. The resulting reaction mixture was cooled and concentrated. The aqueous layer was extracted with CH2Cl2. The combined organic layers were dried (Na2SO4) and concentrated to afford 150 mg of methyl 3-amino-5-(thiazolo[5,4-c]pyridin-2-yl)benzoate (MS, M++H=286).

reactant | Mono-methyl 5-nitro-isophthlate | 5.58 mmol, 1.25 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC)C1)C(=O)[O-]
reactant | oxalyl chloride | 5.58 mmol, 0.49 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-aminopyridin-3-yl diisopropylcarbamodithioate | 5.58 mmol, 1.5 g | C(C)(C)N(C(=S)SC=1C=NC=CC1N)C(C)C | C12H19N3S2
reactant | triethylamine | 5.58 mmol, 0.77 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-nitro-5-(thiazolo[5,4-c]pyridin-2-yl)benzoate | 1.0 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=C(C1)C=1SC=2C=NC=CC2N1 | C14H9N3O4S
